US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-aminophenyl)-L-phenylalanine methyl ester TFA salt (90 mg) was dissolved in THF (5 mL) and to this solution was added DIEA (160 μL) and ClCOOMe (20 μL). The mixture was stirred at room temperature for 12 h. After usual work-up as shown in Example 25, N-(2,6-dichlorobenzoyl)-4-[2-(methoxycarbonylamino)phenyl]-L-phenylalanine methyl ester was obtained.

reactant | N-(2,6-Dichlorobenzoyl)-4-(2-aminophenyl)-L-phenylalanine methyl ester TFA salt | 90 mg | OC(=O)C(F)(F)F.COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)N)=O
reactant | DIEA | 160 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | ClCOOMe | 20 μL | ClC(=O)OC | C2H3ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2,6-dichlorobenzoyl)-4-[2-(methoxycarbonylamino)phenyl]-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)OC)=O | C25H22Cl2N2O5
